US08030306B2
To a round bottom flask was added (R)-4-(3-(1-(benzyloxy)ethyl)-8-(4-chlorophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile (40 mg, 0.061 mmol), CH3CN (2 ml) and TMSI (244 mg, 1.22 mmol). The reaction was stirred at 60° C. under argon for 20 hr. After this time, the solution was cooled to rt and diluted with EtOAc (50 ml). The resulting organic solution was extracted with water (20 ml), 10% NaHSO3 (20 ml) and saturated NaCl (20 ml). The organic layer was dried over MgSO4, filtered and concentrated. The crude product was purified by silica gel column chromatography (8 g silica gel) eluting with a gradient of 20% to 80% EtOAc/Hex to give the product (R)-4-(8-(4-chlorophenyl)-3-(1-hydroxyethyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile as a white solid (15 mg, 44% yield).

reactant | (R)-4-(3-(1-(benzyloxy)ethyl)-8-(4-chlorophenyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile | 0.061 mmol, 40 mg | C(C1=CC=CC=C1)O[C@H](C)C1=NN=C2N1N(C(C(=C2C2=CC=C(C=C2)Cl)C2=CC=C(C#N)C=C2)=O)CC=2C(=NC(=CC2)C(F)(F)F)C | C35H26ClF3N6O2
reactant | CH3CN | 2 ml | CC#N | C2H3N
reactant | TMSI | 1.22 mmol, 244 mg | [Si](C)(C)(C)I | C3H9ISi
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | (R)-4-(8-(4-chlorophenyl)-3-(1-hydroxyethyl)-5-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-5,6-dihydro-[1,2,4]triazolo[4,3-b]pyridazin-7-yl)benzonitrile | 15 mg, 44% yield | ClC1=CC=C(C=C1)C=1C=2N(N(C(C1C1=CC=C(C#N)C=C1)=O)CC=1C(=NC(=CC1)C(F)(F)F)C)C(=NN2)[C@@H](C)O | C28H20ClF3N6O2
